US06982348B2
To a solution of (4RS,5SR)-5-(4-fluorophenyl)-4-((4-fluorophenyl)methyl)-1,3-oxazolidin-2-one (11.87 g, 41.0 mmol) in ethanol (200 ml) was added 8N aqueous sodium hydroxide solution (25.6 ml, 205 mmol) and the mixture was heated under reflux for 4 hrs. The reaction solution was concentrated, diluted with water (200 ml) and extracted with ethyl acetate (200 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give (1RS,2SR)-2-amino-1,3-bis(4-fluorophenyl)-1-propanol (9.33 g, 86%).

reactant | (4RS,5SR)-5-(4-fluorophenyl)-4-((4-fluorophenyl)methyl)-1,3-oxazolidin-2-one | 41.0 mmol, 11.87 g | FC1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC=C(C=C1)F | C16H13F2NO2
reactant | sodium hydroxide | 205 mmol, 8N, 25.6 ml | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | (1RS,2SR)-2-amino-1,3-bis(4-fluorophenyl)-1-propanol | 9.33 g, 86% | NC(C(O)C1=CC=C(C=C1)F)CC1=CC=C(C=C1)F | C15H15F2NO
